US05112848
N-hydroxy-N-(5-phenylfur2-yl)methyl-N'-methyl urea
To a solution of N-(5-phenylfur-2-yl)methyl hydroxylamine (0.5 g, 2.64 mmol) in tetrahydrofuran (30 mL) was added methylisocyanate (0.24 mL, 3.97 mmol) dropwise at room temperature under nitrogen while stirring. The reaction was stirred for 20 h and ethyl ether (100 mL) and water (100 mL) was added. The organic layer was separated, washed with saturated aqueous NaCl, dried over MgSO4, filtered and concentrated in vacuo, to give a solid (0.58 g). Purification by chromatography (silica gel, 2% methanol in dichloromethane) gave the desired product (0.28 g), mp 135°-139° C.; NMR (300 MHz, DMSO-d6): 2.63 (3H, d, J=5.4 Hz), 4.53 (2H, s), 6.38 (1H, d, J=3.3 Hz), 6.87 (1H, d, J =3.3 Hz), 7.03 (1H, q, J=5.4 Hz), 7.24-7.30 (1H, m), 7.38-7.45 (2H, m), 7.38-7.45 (2H, m), 7.62-7.68 (2H, m), 9.40 (1H, s); MS (CI-NH3): M+H=247; Analysis Calculated for C13H14N2O3 : C, 63.40; H, 5.73, N, 11.38; Found C, 63.29; H, 5.76; N, 11.34.

reactant | N-(5-phenylfur-2-yl)methyl hydroxylamine | 2.64 mmol, 0.5 g | C1(=CC=CC=C1)C1=CC=C(O1)CNO | C11H11NO2
reactant | methylisocyanate | 3.97 mmol, 0.24 mL | CN=C=O | C2H3NO
reactant | ethyl ether | 100 mL | C(C)OCC | C4H10O
reactant | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-hydroxy-N-(5-phenylfur2-yl)methyl-N'-methyl urea | 0.58 g | ON(C(=O)NC)CC=1OC(=CC1)C1=CC=CC=C1 | C13H14N2O3
